US08912188B2
To a solution of tert-butyl (2S)-2-methylpiperazine-1-carboxylate (8 g, 39.94 mmol) in DMSO (25 ml) was added 2-bromopyridine (6.594 g, 41.74 mmol), and DIEA (15.48 g, 119.78 mmol). After stirring 2 days at 120° C., the resulting solution was quenched by the addition of DCM (200 ml), washed with water (3×300 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified via silica gel chromatography (3% ethyl acetate in petroleum ether) to afford (S)-tert-butyl 2-methyl-4-(pyridin-2-yl)piperazine-1-carboxylate as a red oil (5.2 g, 47%).

reactant | tert-butyl (2S)-2-methylpiperazine-1-carboxylate | 39.94 mmol, 8 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-bromopyridine | 41.74 mmol, 6.594 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | DIEA | 119.78 mmol, 15.48 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | (S)-tert-butyl 2-methyl-4-(pyridin-2-yl)piperazine-1-carboxylate | 5.2 g, 47% | C[C@@H]1N(CCN(C1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C15H23N3O2
